US07618990B2
Step 2: 3-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-4-methyl-1,3-oxazolidin-2-one
In the same manner as described in step 4 of Example 1, replacing (2R)-2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}propan-1-ol with 2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}propan-1-ol, prepared in the previous step, and purification by flash chromatography using a solvent gradient of 10 to 30% ethyl acetate in hexane gave the title compound (293 mg, 64%) as a white solid; mp 189-190° C.; MS (ESI) m/z 339 [M+H]+. Anal. Calcd for C13H11BrN2O2S: C, 46.03; H, 3.27; N, 8.26. Found: C, 45.83; H, 3.25; N, 8.07. HRMS: calcd for C13H, BrN2O2S+H+, 338.97973; found (ESI, [M+H]+), 338.9784.

reactant | 2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}propan-1-ol | BrC1=CC=C(C=C1)C=1N=C(SC1)NC(CO)C | C12H13BrN2OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 3-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-4-methyl-1,3-oxazolidin-2-one | 293 mg, 64% | BrC1=CC=C(C=C1)C=1N=C(SC1)N1C(OCC1C)=O | C13H11BrN2O2S
